US07507726B2
(2R)-2-(Hydroxymethyl)-N-benzoxy-7-octenamide
To a mixture of (2R)-2-(hydroxymethyl)-7-octenoic acid (1.12 g, 6.51 mmol), O-benzyl hydroxylamine hydrochloride (1.04 g, 6.51 mmol) and 4-dimethylamino-pyridine (1.90 g, 15.62 mmol) in dichloromethane (30 mL) at 0° C. was added 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (1.50 g, 7.81 mmol). After stirring at room temperature overnight, the reaction was then quenched with 1N aqueous HCl solution (25 mL) and extracted using dichloromethane (25 mL×2). The organic extracts were washed with water, brine, and dried over MgSO4. Removal of the solvent under reduced pressure yielded the title compound. MH+278.

reactant | (2R)-2-(hydroxymethyl)-7-octenoic acid | 6.51 mmol, 1.12 g | OC[C@H](C(=O)O)CCCCC=C | C9H16O3
reactant | O-benzyl hydroxylamine hydrochloride | 6.51 mmol, 1.04 g | Cl.C(C1=CC=CC=C1)ON
reactant | 1-[3-(dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 7.81 mmol, 1.50 g | Cl.CN(CCCN=C=NCC)C
catalyst | 4-dimethylamino-pyridine | 15.62 mmol, 1.90 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
product | (2R)-2-(Hydroxymethyl)-N-benzoxy-7-octenamide | OC[C@H](C(=O)NOCC1=CC=CC=C1)CCCCC=C | C16H23NO3
